US05262412
Step A: 2-Nitro-4-methylbenzotrifluoride
A mixture of 6.00 g (27.8 mmol) of 4-bromo-3-nitrotoluene, 5.86 mL (8.03 g, 55.6 mmol) of methyl chlorodifluoroacetate, 1.93 g (33.4 mmol) of potassium fluoride, 5.31 g (27.8 mmol) of cuprous iodide, and 25 mL of dry DMF was stirred at 110° C. for 2 days. The cooled material was diluted with aqueous citric acid and extracted 3× with ethyl acetate. The combined organic extracts were washed with H2O, then with brine, and dried over anhydrous Na2SO4. The residue obtained upon concentration of the filtered solution was flash chromatographed 3× on silica gel (elution with 100:1 and 25:1 hexane-EtOAc) to give 3.25 g (57%) of the title compound as a yellow liquid; homogeneous by TLC in 4:1 hexane-EtOAc; mass spectrum (EI) m/e 205 (M+). 400 MHz 1H NMR (CDCl3) δ2.48 (s, 3H), 7.49 (d, J=8 Hz, 1H), 7.67 (s, 1H) overlapping 7.68 (d, J=8 Hz, 1H).

reactant | 4-bromo-3-nitrotoluene | 27.8 mmol, 6.00 g | BrC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | methyl chlorodifluoroacetate | 55.6 mmol, 5.86 mL, 8.03 g | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | potassium fluoride | 33.4 mmol, 1.93 g | [F-].[K+]
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 2-Nitro-4-methylbenzotrifluoride | 3.25 g, 57% | [N+](=O)([O-])C1=C(C=CC(=C1)C)C(F)(F)F | C8H6F3NO2
